US05635518
Sodium hydride (0.46 g, 11.6 mmol, 60% oil dispersion) was added portionwise to a stirred solution of 3-hydroxybiphenyl (0.99 g, 5,8 mmol) in toluene (30 ml) placed under an atmosphere of nitrogen. The mixture was stirred for 30 minutes and (R)-1-(2-bromoethyl)-3-piperidinecarboxylic acid ethyl ester hydrobromide (2.0 g, 5.8 mmol, EP 374801) was added portionwise. The reaction mixture was stirred overnight at ambient temperature and water was added (50 ml). The phases were separated and the aqueous phase was extracted with toluene (20 ml). The solvent was evaporated in vacuo from the combined organic phases to give a residue which was dissolved in ethyl acetate (100 ml). Water (50 ml) was added and pH was adjusted to 4 with a 34% tartaric acid solution. The phases were separated and the organic phase extracted with 34% tartaric acid (2×5 ml). To the combined aqueous phases was added ethyl acetate (30 ml) and pH was adjusted to 7.5 with 2N sodium hydroxide. The organic phase was washed with brine (10 ml) and dried (Na2SO4). The solvent was evaporated in vacuo to give 1.5 g of (R)-1-(2-(3-Phenylphenoxy)ethyl)-3-piperidinecarboxylic acid ethyl ester as an oil.

reactant | Sodium hydride | 11.6 mmol, 0.46 g | [H-].[Na+]
reactant | 3-hydroxybiphenyl | 5,8 mmol, 0.99 g | OC=1C=C(C=CC1)C1=CC=CC=C1 | C12H10O
reactant | (R)-1-(2-bromoethyl)-3-piperidinecarboxylic acid ethyl ester hydrobromide | 5.8 mmol, 2.0 g | Br.C(C)OC(=O)[C@H]1CN(CCC1)CCBr
reactant | tartaric acid | C(C(O)C(O)C(=O)O)(=O)O | C4H6O6
solvent | toluene | 30 ml | C1(=CC=CC=C1)C | C7H8
solvent | ethyl acetate | 100 ml | C(C)(=O)OCC | C4H8O2
solvent | Water | 50 ml | O | H2O
product | (R)-1-(2-(3-Phenylphenoxy)ethyl)-3-piperidinecarboxylic acid ethyl ester | 1.5 g | C(C)OC(=O)[C@H]1CN(CCC1)CCOC1=CC(=CC=C1)C1=CC=CC=C1 | C22H27NO3
